US07772244B2
N-(2-amino-4-fluorobenzyl)-1-benzylpiperidin-4-amine
To a solution of lithium aluminum hydride (4.01 g, 105.7 mmol) in anhydrous 1,4-dioxane (40 mL) at reflux was added N-(1-benzylpiperidin-4-yl)-4-fluoro-2-nitrobenzamide (9.87 g, 30.2 mmol) in anhydrous 1,4-dioxane (125 mL) dropwise under nitrogen over 30 minutes. The resulting mixture was heated at reflux for 3 h under nitrogen. After cooling to room temperature, the reaction was carefully quenched with ice water (10 mL), sodium hydroxide (50% in water, 50 mL), and extracted with diethyl ether (2×500 mL). The combined organic layers were washed with brine (100 mL), dried over magnesium sulfate, and concentrated in vacuo to afford the title compound (8.64 g, 100% yield) as a yellow oil, which was pure enough for use in the next step. 1H-NMR (CD3OD, 400 MHz) δ 7.52-7.40 (m, 5H), 7.28-7.18 (m, 1H), 6.53 (dd, J=11.2, 2.4, 1H), 6.48-6.38 (m, 1H), 4.33 (s, 2H), 4.18 (s, 2H), 3.68-3.46 (m, 3H), 3.25-3.10 (m, 2H), 2.50-2.42 (m, 2H), 2.16-1.93 (m, 2H). Mass spec.: 314.21 (MH+).

reactant | lithium aluminum hydride | 105.7 mmol, 4.01 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-(1-benzylpiperidin-4-yl)-4-fluoro-2-nitrobenzamide | 30.2 mmol, 9.87 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C19H20FN3O3
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 125 mL | O1CCOCC1 | C4H8O2
product | N-(2-amino-4-fluorobenzyl)-1-benzylpiperidin-4-amine | 8.64 g, 100% yield | NC1=C(CNC2CCN(CC2)CC2=CC=CC=C2)C=CC(=C1)F | C19H24FN3
